US05082847
Potassium hydroxide (20 g) was added to a solution of 3,4-dihydro-5-hydroxycarbostyril (32.5 g) in propanol (250 mL), and stirred at 50°-60° C. until complete dissolution. 1-bromo-2-chloroethane (30 g) was then added, and the mixture heated at reflux temperature for 15 hours. After cooling, the reaction mixture was poured into aqueous sodium hydroxide (2N, 500 mL). The crude product thus formed was isolated by filtration, then recrystallized from diisopropyl ether to yield 31 g of pure 5-(2-chloroethoxy)-3,4-dihydrocarbostyril.

reactant | Potassium hydroxide | 20 g | [OH-].[K+]
reactant | 3,4-dihydro-5-hydroxycarbostyril | 32.5 g | OC1=C2CCC(NC2=CC=C1)=O | C9H9NO2
reactant | 1-bromo-2-chloroethane | 30 g | BrCCCl | C2H4BrCl
reactant | sodium hydroxide | 2N, 500 mL | [OH-].[Na+]
solvent | propanol | 250 mL | C(CC)O | C3H8O
product | 5-(2-chloroethoxy)-3,4-dihydrocarbostyril | 31 g | ClCCOC1=C2CCC(NC2=CC=C1)=O | C11H12ClNO2
